US04978753
A solution of 1 mmole of 1-carbomethoxy-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one in tetrahydrofuran was reacted at room temperature with the stoichiometric amount of lithium aluminum hydride and stirred for several hours. It was decomposed with water and 15% sodium hydroxide and worked up to give 1-hydroxymethyl-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 1-carbomethoxy-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | 1 mmole | C(=O)(OC)C1=CC(N=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)=O | C20H14ClN3O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-9-chloro-7-phenylpyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | OCC1=CC(N=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)=O | C19H14ClN3O2
